US06770662B2
0.9 g (16 mmol) of sodium methoxide was added to a solution having 1.5 g (4.2 mmol) of 3-(4,5-dimethoxy-2-methylbenzoyl)-2-chloro-4-trifluoromethylpyridine synthesized in accordance with a process in Synthesis Example 1 dissolved in 20 ml of toluene, followed by stirring under reflux by heating for 4 hours. The mixture was cooled, and then 20 ml of water was added thereto to terminate the reaction, the aqueous solution was extracted with ethyl acetate, and the organic layer was dried over anhydrous sodium sulfate and subjected to filtration by using a silica gel cake. The solvent was distilled off under reduced pressure to obtain 1.5 g (yield 99%) of 3-(4,5-dimethoxy-2-methylbenzoyl)-2-methoxy-4-trifluoromethylpyridine (compound No. 32; m.p. 125-127° C.).

reactant | sodium methoxide | 16 mmol, 0.9 g | C[O-].[Na+]
reactant | 3-(4,5-dimethoxy-2-methylbenzoyl)-2-chloro-4-trifluoromethylpyridine | 4.2 mmol, 1.5 g | COC1=CC(=C(C(=O)C=2C(=NC=CC2C(F)(F)F)Cl)C=C1OC)C | C16H13ClF3NO3
reactant | water | 20 ml | O | H2O
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(4,5-dimethoxy-2-methylbenzoyl)-2-methoxy-4-trifluoromethylpyridine | 1.5 g, yield 99% | COC1=CC(=C(C(=O)C=2C(=NC=CC2C(F)(F)F)OC)C=C1OC)C | C17H16F3NO4
